US06211199B1
5.4.2 Synthesis of (R)-1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-methyl-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine
Combine the above solution of (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine, potassium carbonate (4.07 kg, 29.5 mol), (1-methyl-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (12.0 mol), and water (3.3 gal). Heat to about 70° C. When the reaction is complete, dilute the reaction mixture with methyl ethyl ketone (18.1 kg) and after 15 minutes of stirring, separate the layers. Extract the organic layer with water (3.4 gal) and then concentrate in vacuo to give the title compound.

reactant | (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO7S
reactant | potassium carbonate | 29.5 mol, 4.07 kg | C([O-])([O-])=O.[K+].[K+]
reactant | (1-methyl-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 12.0 mol | CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C13H18N4
reactant | water | O | H2O
solvent | methyl ethyl ketone | 18.1 kg | C(C)C(=O)C | C4H8O
product | (R)-1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-methyl-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@](CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)NC2=NC3=C(N2C)C=CC=C3)C=C(C1OC)OC | C35H41Cl2N5O4
